US07981874B2
4-({[2-[(tert-Butoxycarbonyl)amino]-5-(2-thienyl)phenyl]amino}carbonyl)benzoic acid.
To a solution of methyl 4-({[2-[(tert-butoxycarbonyl)amino]-5-(2-thienyl)phenyl]amino}carbonyl)benzoate (3.20 g, 7.07 mmol) in 1:1:2 H2O:MeOH:THF (80 mL) was added LiOH (1.20 g, 50.1 mmol). The reaction was stirred at room temperature for 18 h, diluted with EtOAc, washed with 2 N HCl, dried (Na2SO4), and evaporated to give the desired product as a red solid. MS: cal'd 461 (MNa+), exp 461 (MNa+).

reactant | methyl 4-({[2-[(tert-butoxycarbonyl)amino]-5-(2-thienyl)phenyl]amino}carbonyl)benzoate | 7.07 mmol, 3.20 g | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CC=C(C(=O)OC)C=C1 | C24H24N2O5S
reactant | H2O | O | H2O
reactant | MeOH | CO | CH4O
reactant | LiOH | 50.1 mmol, 1.20 g | [Li+].[OH-]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 4-({[2-[(tert-Butoxycarbonyl)amino]-5-(2-thienyl)phenyl]amino}carbonyl)benzoic acid | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CC=C(C(=O)O)C=C1 | C23H22N2O5S
